US07030267B2
To a solution of 2-cyano-4-methyl-pent-2-enoic acid methyl ester (10.5 g, 68.3 mmol) in dry acetonitrile (60 mL) was added nitromethane (5.5 mL, 103 mmol) and a portionwise addition of alumina-supported potassium flouride (40% wt, 22 g). The reaction mixture was stirred under reflux for 2 hours and cooled to room temperature. The solid was removed by filtration through a short pad of celite and washed with acetonitrile. Excess of solvent was removed in vacuo and the residue was re-dissolved in ether. The ether layer was washed with water, brine, dried over sodium sulfate (Na2SO4) and concentrated in vacuo. The crude product was purified by flash column chromatography using hexanes/EtOAc (8:2) as an eluent to afford 1-cyano-2-isopropyl-cyclopropanecarboxylic acid methyl ester (7.7 g, 68%) as colorless oil: 1H NMR (300 MHz, CDCl3) δ 1.13 (t, J=7.2 Hz, 6H), 1.39–1.45 (m, 2H), 1.65–1.74 (m, 1H), 1.81 (dd, J=4.4, 8.9 Hz, 1H), 3.81 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 19.6, 21.8, 21.9, 25.3, 31.2, 39.3, 53.7, 117.6, 168.7.

reactant | 2-cyano-4-methyl-pent-2-enoic acid methyl ester | 68.3 mmol, 10.5 g | COC(C(=CC(C)C)C#N)=O | C8H11NO2
reactant | nitromethane | 103 mmol, 5.5 mL | [N+](=O)([O-])C | CH3NO2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 1-cyano-2-isopropyl-cyclopropanecarboxylic acid methyl ester | 7.7 g, 68% | COC(=O)C1(C(C1)C(C)C)C#N | C9H13NO2
